US09145441B2
Compound 111d. (E)-4-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-2,2-dimethyl-but-3-enoic acid methyl ester
A cooled (0° C.) solution of (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid (696 mg, 1.74 mmol) and crude (E)-4-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid methyl ester hydrochloride in acetonitrile (20 mL) was subsequently treated with N,N-diisopropylethylamine (1.52 mL, 8.71 mmol) and 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (861 mg, 2.26 mmol). After stirring at room temperature for 2 h, the volatiles were removed in vacuo. The residue was dissolved in ethyl acetate, and subsequently washed with saturated ammonium chloride solution and sodium hydrogen carbonate solution. The organics were combined and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 100 g Biotage cartridge eluted with a continuous gradient of iso-hexanes/acetone 1:0 to 1:1 to afford the title compound (868 mg, 73%) as a white solid. 1H NMR (300 MHz, CD3OD) δ 0.82-0.97 (m, 6H), 1.36 (d, J=6.9 Hz, 3H), 1.45 (s, 9H), 1.48 (s, 6H), 1.61 (d, J=6.9 Hz, 3H), 1.66-1.76 (m, 2H), 1.83-2.12 (m, 3H), 2.78-2.92 (m, 1H), 3.52-3.61 (m, 1H), 3.74 (s, 3H), 3.82-3.95 (m, 1H), 4.25-4.35 (m, 1H), 5.23 (q, J=6.9 Hz, 1H), 5.36 (q, J=6.9 Hz, 1H), 6.36-6.51 (m, 2H), 7.51 (d, J=8.5 Hz, 1H), 7.73 (d, J=8.5 Hz, 1H), 7.85 (d, J=8.5 Hz, 1H), 7.99 (s, 1H), 8.25 (d, J=8.5 Hz, 1H). LCMS (m/z) 681.4 [M+H], Tr=2.62 min.

reactant | (S)-1-[(S)-2-((S)-2-tert-butoxycarbonylamino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid | 1.74 mmol, 696 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C | C18H32N4O6
reactant | (E)-4-[2-((R)-1-amino-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoic acid methyl ester hydrochloride | Cl.COC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)N)(C)C)=O
reactant | N,N-diisopropylethylamine | 8.71 mmol, 1.52 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 2.26 mmol, 861 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (E)-4-{2-[(R)-1-({(S)-1-[(S)-2-((S)-2-tert-Butoxycarbonylamino-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carbonyl}-amino)-ethyl]-quinolin-7-yl}-2,2-dimethyl-but-3-enoic acid methyl ester | 868 mg, 73% | COC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)NC(=O)OC(C)(C)C)=O)=O)(C)C)=O | C36H52N6O7
